US06878700B1
(2-Methylphenyl)[2-trifluoromethyl-4-(E-((4-phenylpiperazin-1-yl)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-methylthiophenol, 2-chlorobenzaldehyde with 4fluoro-3-trifluoromethyl benzaldehyde, and 6-amino-1-hexanol with 4-phenylpiperazine. 1H NMR (CDCl3, 300 MHz) δ 7.81 (s, 1H); 7.64 (d, J=16.0 Hz, 1H); 7.51 (d, J=8.2 Hz, 1H); 7.40-7.27 (m, 6H); 6.98-6.90 (m, 4H); 6.80 (d, J=8.2 Hz, 1H); 3.88 (br s, 4H); 2.23 (br s, 4H); 2.34 (s, 3H). MS (ESI) m/z 987 (2M+Na)+, 965 (2M+H)+, 505 (M+Na)+, 483 (M+H)+, 451.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-methylthiophenol | CC1=C(C=CC=C1)S | C7H8S
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4fluoro-3-trifluoromethyl benzaldehyde | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 4-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | (2-Methylphenyl)[2-trifluoromethyl-4-(E-((4-phenylpiperazin-1-yl)carbonyl)ethenyl)phenyl]sulfide | CC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1CCN(CC1)C1=CC=CC=C1)C(F)(F)F | C27H25F3N2OS
